// Generated for: spectre
// Generated on: Mar 31 18:54:20 2020
// Design library name: myee272
// Design cell name: test_pb1
// Design view name: schematic
simulator lang=spectre
global 0
parameters frequency=1M phase_shift=.25 vdd=1.2
include "/cad/freepdk/FreePDK15/hspice/models/fet.inc" section=CMG

// Library name: myfreepdk15
// Cell name: inv
// View name: schematic
subckt inv gnd in out vdd
    M0 (out in gnd gnd) nfet w=30n l=15n as=6.08e-16 ad=6.08e-16 ps=168n \
        pd=168n m=2 degradation=no
    M1 (out in vdd vdd) pfet w=30n l=15n as=6.08e-16 ad=6.08e-16 ps=168n \
        pd=168n m=2 degradation=no
ends inv
// End of subcircuit definition.

// Library name: myfreepdk15
// Cell name: mux
// View name: schematic
subckt mux ina inb out sel vdd vss
parameters strength
    M5 (inb sel out vss) nfet as=6.08e-16 ad=6.08e-16 ps=168n pd=168n \
        m=strength*2 degradation=no
    M2 (ina sel_bar out vss) nfet as=6.08e-16 ad=6.08e-16 ps=168n pd=168n \
        m=strength*2 degradation=no
    M3 (out sel_bar inb vdd) pfet as=6.08e-16 ad=6.08e-16 ps=168n pd=168n \
        m=strength * 4 degradation=no
    M4 (out sel ina vdd) pfet as=6.08e-16 ad=6.08e-16 ps=168n pd=168n m=strength * 4 \
         degradation=no
    I0 (vss sel sel_bar vdd) inv
ends mux
// End of subcircuit definition.

// Library name: myfreepdk15
// Cell name: pb2
// View name: schematic
subckt pb2 ina inb out sel\<0\> sel\<1\> sel\<2\> vdd vss
    I4 (ina_lpf inb_lpf out_raw sel\<2\> vdd vss) mux strength=3
    I3 (ina_lpf inb_lpf out_raw sel\<1\> vdd vss) mux strength=1
    I2 (ina_lpf inb_lpf out_raw sel\<0\> vdd vss) mux strength=1
    C1 (inb_lpf vss) capacitor c=100p
    C0 (ina_lpf vss) capacitor c=100p
    R1 (inb inb_lpf) resistor r=(.05u/100p)
    R0 (ina ina_lpf) resistor r=(.05u/100p)
    I8 (vss net9 out vdd) inv
    I7 (vss out_raw net9 vdd) inv
ends pb2
// End of subcircuit definition.

// // Library name: myee272
// // Cell name: test_pb1
// // View name: schematic
// V0 (net2 0) vsource dc=vdd type=dc
// V5 (sel\<2\> 0) vsource type=pulse val0=0 val1=vdd period=(1/frequency)*12
// V4 (sel\<1\> 0) vsource type=pulse val0=0 val1=vdd period=(1/frequency)*6
// V3 (sel\<0\> 0) vsource type=pulse val0=0 val1=vdd period=(1/frequency)*3
// V2 (net4 0) vsource type=pulse val0=0 val1=vdd period=1 / frequency delay=(1/frequency) * phase_shift \
//         
// V1 (net3 0) vsource type=pulse val0=0 val1=vdd period=1 / frequency
// C0 (net5 0) capacitor c=1p
// I2 (net3 net4 net5 sel\<0\> sel\<1\> sel\<2\> net2 0) pb2
// simulatorOptions options psfversion="1.1.0" reltol=1e-3 vabstol=1e-6 \
//     iabstol=1e-12 temp=27 tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 \
//     maxnotes=5 maxwarns=5 digits=5 cols=80 pivrel=1e-3 \
//     sensfile="../psf/sens.output" checklimitdest=psf 
// tran tran stop=24u write="spectre.ic" writefinal="spectre.fc" \
//     annotate=status maxiters=5 
// finalTimeOP info what=oppoint where=rawfile
// modelParameter info what=models where=rawfile
// element info what=inst where=rawfile
// outputParameter info what=output where=rawfile
// designParamVals info what=parameters where=rawfile
// primitives info what=primitives where=rawfile
// subckts info what=subckts where=rawfile
// saveOptions options save=allpub
